US03989707
56.27 parts of ethyl 4-[2-amino-4-(trifluoromethyl)-phenylamino]-1-piperidinecarboxylate and 15.6 parts of urea are mixed thoroughly in a mortar. The mixture is stirred and heated on an oil-bath at 170°-180° C for 3 hours. The reaction mixture is cooled to 100° C and the product is extracted with methylbenzene. The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding ethyl 4-[1,3-dihydro-2-oxo-5-(trifluoromethyl)-2H-benzimidazol-1-yl]-1-piperidinecarboxylate.

reactant | ethyl 4-[2-amino-4-(trifluoromethyl)-phenylamino]-1-piperidinecarboxylate | NC1=C(C=CC(=C1)C(F)(F)F)NC1CCN(CC1)C(=O)OCC | C15H20F3N3O2
reactant | urea | NC(=O)N | CH4N2O
product | ethyl 4-[1,3-dihydro-2-oxo-5-(trifluoromethyl)-2H-benzimidazol-1-yl]-1-piperidinecarboxylate | O=C1NC2=C(N1C1CCN(CC1)C(=O)OCC)C=CC(=C2)C(F)(F)F | C16H18F3N3O3
